US06869954B2
5) Preparation of 2-(4-chlorocinnamyl)-6-(3-fluoro-4-methoxyphenyl)-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-(4-chlorocinnamyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and 1-methylpiperazine were reacted to yield the title compound as pale brown neeldes (yield: 66.3%).

reactant | 2-(4-chlorocinnamyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | ClC1=CC=C(C=CCN2N=C(C=C(C2=O)COS(=O)(=O)C)C2=CC(=C(C=C2)OC)F)C=C1 | C22H20ClFN2O5S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 2-(4-chlorocinnamyl)-6-(3-fluoro-4-methoxyphenyl)-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one | yield: 66.3% | ClC1=CC=C(C=CCN2N=C(C=C(C2=O)CN2CCN(CC2)C)C2=CC(=C(C=C2)OC)F)C=C1 | C26H28ClFN4O2
